US08247403B2
(1) tert-butyl 8-(pyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of tert-butyl 8-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (300 mg, 0.915 mmol), pyrrolidine (0.250 ml, 3.00 mmol), X-phos (26.1 mg, 0.0546 mmol), tris(dibenzylideneacetone)dipalladium(0) (16.6 mg, 0.00187 mmol) and sodium tert-butoxide (131 mg, 1.37 mmol) in dioxane (6 ml) was stirred under an argon atmosphere for 1 hr at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (110 mg, 37.8%) as an oil.

reactant | tert-butyl 8-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.915 mmol, 300 mg | BrC1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C14H18BrNO3
reactant | pyrrolidine | 3.00 mmol, 0.250 ml | N1CCCC1 | C4H9N
reactant | X-phos | 0.0546 mmol, 26.1 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium tert-butoxide | 1.37 mmol, 131 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00187 mmol, 16.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | tert-butyl 8-(pyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 110 mg, 37.8% | N1(CCCC1)C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C18H26N2O3
